US05512207
3-Octyloxy-6-pyridazineboronic acid
17.1 g (70.6 mmol) of 3-octyloxy-6-chloropyridazine are dissolved in 100 ml of absolute THF and cooled to -78° C. under a protective gas. 47.1 ml (75.2 mmol) of 1.6 molar n-butyllithium solution in hexane are then added dropwise over the course of 30 minutes. The mixture is stirred at -78° C. for a further 30 minutes. 216 ml (215.7 mmol) of 1.0 molar ZnCl2 solution in diethyl ether are subsequently slowly added dropwise, during which the temperature must not exceed -60° C. When the addition is complete, the mixture is stirred for a further 30 minutes. The crude boronic acid is employed directly, without isolation from the solution, for the subsequent couplings.

reactant | 3-octyloxy-6-chloropyridazine | 70.6 mmol, 17.1 g | C(CCCCCCC)OC=1N=NC(=CC1)Cl | C12H19ClN2O
reactant | n-butyllithium | 75.2 mmol, 1.6 molar, 47.1 ml | C(CCC)[Li]
reactant | boronic acid | B(O)O | BH3O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | ZnCl2 | 215.7 mmol, 1.0 molar, 216 ml | [Cl-].[Cl-].[Zn+2]
product | 3-Octyloxy-6-pyridazineboronic acid | C(CCCCCCC)OC=1N=NC(=CC1)B(O)O | C12H21BN2O3
